US04020177
Step D: Preparation of 8-Acetyl-12-hydroxy-13-(4-fluorophenoxy)-5-tridecynoic Acid
Methyl 8-acetyl-8-ethoxycarbonyl-12-acetoxy-13-(4-fluorophenoxy)-5-tridecynoate (40.00 g., 0.079 mole) is added to a solution of sodium hydroxide (18.96 g.; 0.474 mole) in water (132.7 ml.) and methanol (462.9 ml.). The resulting solution is allowed to stand for 191/2 hours at 55°.

reactant | Methyl 8-acetyl-8-ethoxycarbonyl-12-acetoxy-13-(4-fluorophenoxy)-5-tridecynoate | 0.079 mole, 40.00 g | C(C)(=O)C(CC#CCCCC(=O)OC)(CCCC(COC1=CC=C(C=C1)F)OC(C)=O)C(=O)OCC | C27H35FO8
reactant | sodium hydroxide | 0.474 mole, 18.96 g | [OH-].[Na+]
solvent | water | 132.7 ml | O | H2O
solvent | methanol | 462.9 ml | CO | CH4O
product | 8-Acetyl-12-hydroxy-13-(4-fluorophenoxy)-5-tridecynoic Acid | C(C)(=O)C(CC#CCCCC(=O)O)CCCC(COC1=CC=C(C=C1)F)O | C21H27FO5
